US04791115
A suspension of 5.5 g 8α-amino-6-methyl-9,10-didehydro-ergoline in 200 ml CH2Cl2 is cooled to 0° and treated with 6.44 ml triethylamine followed by dropwise addition of 2.97 ml pivaloyl chloride. The mixture is stirred for 2 hours at room temperature and washed with water. The organic layer is dried (Na2SO4) and evaporated. The residue is chromatographed on 200 g silica gel using 98:2 CH2Cl2 /CH3OH and then crystallized from ether to yield 6-methyl-8α-pivaloylamino-9,10-didehydro-ergoline, m.p. 158°-159°.

reactant | 8α-amino-6-methyl-9,10-didehydro-ergoline | 5.5 g | N[C@@H]1CN([C@@H]2CC3=CNC4=CC=CC(C2=C1)=C34)C | C15H17N3
reactant | triethylamine | 6.44 ml | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 2.97 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | 6-methyl-8α-pivaloylamino-9,10-didehydro-ergoline | CN1C[C@H](C=C2C=3C=CC=C4NC=C(C[C@@H]12)C34)NC(C(C)(C)C)=O | C20H25N3O
